US09219237B1
(3-1) Synthesis of 1,5-dibromo-2,4-difluorobenzene (Compound L3-1)
2,4-difluorobromobenzene (3 g, 15.5 mmol) and 260 mg of iron filings were placed in a two-neck flask, and 15 ml of dichloromethane was then added thereto. The two-neck flask was cooled in an ice bath, and a solution including bromine (1 ml, 18.7 mmol) and 15 ml of dichloromethane was added dropwise to the two-neck flask using an isobaric funnel. Next, the contents in the two-neck flask were heated under reflux for 3 hours. During heating, brown gas was produced. Then, the temperature was reduced to 20° C., and 50 ml of a sodium metabisulfite (Na2S2O5) aqueous solution (10%) was mixed with the contents in the two-neck flask by stirring for 1 hour for terminating the reaction therein. Thereafter, the contents in the two-neck flask were washed several times with deionized water to collect an organic layer, the organic layer was dehydrated using sodium sulfate (Na2SO4), and the solvent in the organic layer was removed, followed by column chromatography (SiO2, n-hexane), thereby obtaining white crystals (3.5 g, 83% yield).

reactant | 2,4-difluorobromobenzene | 15.5 mmol, 3 g | FC1=C(C=CC(=C1)F)Br | C6H3BrF2
reactant | bromine | 18.7 mmol, 1 ml | BrBr | Br2
reactant | sodium metabisulfite | 50 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
catalyst | iron | 260 mg | [Fe] | Fe
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1,5-dibromo-2,4-difluorobenzene | 3.5 g, 83% yield | BrC1=C(C=C(C(=C1)Br)F)F | C6H2Br2F2
